US06992094B1
4-(3-(2-Hydroxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)benzoic acid
In a manner similar to that of Example 2, by reaction of 322 mg (0.62 mmol) of ethyl 4-[3-(2-acetoxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate with 250 mg (6.2 mmol) of sodium hydroxide in a THF/ethanol mixture (3 ml/3 ml), 226 mg (81%) of a white powder are obtained. m.p.: 197° C.

reactant | ethyl 4-[3-(2-acetoxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate | 0.62 mmol, 322 mg | C(C)(=O)OCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C27H34O5Se
reactant | sodium hydroxide | 6.2 mmol, 250 mg | [OH-].[Na+]
solvent | THF ethanol | 3 ml | C1CCOC1.C(C)O
product | 4-(3-(2-Hydroxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)benzoic acid | OCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)O)C=C1 | C23H28O4Se
